US07488844B2
(iv) (2S)-3-(4-{2-[Butyl(2,3-dimethoxybenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (1.02 g, 2.0 mmol) in acetonitrile (80 mL) was added aqueous 0.10 M LiOH (40 mL) and the reaction mixture was stirred at room temperature overnight. The solvent volume was reduced in vacuo and the remaining aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with brine (75 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.96 g (98%) of a light yellow oil.

reactant | ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(butyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 2.0 mmol, 1.02 g | COC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCC)C=CC=C1OC | C28H39NO7
reactant | LiOH | 0.10 M, 40 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (2S)-3-(4-{2-[Butyl(2,3-dimethoxybenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 0.96 g, 98% | C(CCC)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC)=O)CC1=C(C(=CC=C1)OC)OC | C26H35NO7
